US06831094B2
Preparation of t-Butyl (2S)-2-[(3-amino-2-methylphenoxy)methyl]pyrrolidine-1-carboxylate
A solution of t-butyl (2S)-2-[(2-methyl-3-nitrophenoxy)methyl]pyrrolidine-1-carboxylate (7.63 g, 21.9 mmol) and 10% Pd/C (0.38 g) in ethanol is hydrogenated (50 psi) at room temperature for 4 h and filtered. The filtrate is concentrated in vacuo to afford the title compound as an off-white solid, 6.66 g, mp 110° C., identified by NMR and mass spectral analyses.

reactant | t-butyl (2S)-2-[(2-methyl-3-nitrophenoxy)methyl]pyrrolidine-1-carboxylate | 21.9 mmol, 7.63 g | CC1=C(OC[C@H]2N(CCC2)C(=O)OC(C)(C)C)C=CC=C1[N+](=O)[O-] | C17H24N2O5
solvent | ethanol | C(C)O | C2H6O
catalyst | Pd/C | 0.38 g | [Pd] | Pd
product | t-Butyl (2S)-2-[(3-amino-2-methylphenoxy)methyl]pyrrolidine-1-carboxylate | NC=1C(=C(OC[C@H]2N(CCC2)C(=O)OC(C)(C)C)C=CC1)C | C17H26N2O3
